US05373008
A mixture of 1,3-dimethyl-2-imidazolidinone (7 g) in benzene (45 ml), phosphorus oxychloride (6 ml) and 4-(2-aminophenyl)morpholine (8.5 g) in benzene (30 ml) was heated for 30 hours at 65°-70° C. The product was recrystallised from hexane to give 4-[2-(1,3-dimethyl-2-imidazolidinylideneamino)phenyl]morpholine (m.p. 133°-134° C.).

reactant | 1,3-dimethyl-2-imidazolidinone | 7 g | CN1C(N(CC1)C)=O | C5H10N2O
reactant | 4-(2-aminophenyl)morpholine | 8.5 g | NC1=C(C=CC=C1)N1CCOCC1 | C10H14N2O
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
solvent | phosphorus oxychloride | 6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 4-[2-(1,3-dimethyl-2-imidazolidinylideneamino)phenyl]morpholine | CN1C(N(CC1)C)=NC1=C(C=CC=C1)N1CCOCC1 | C15H22N4O
